US06303194B1
9.66 ml of a 15% solution of n-butyllithium in hexane are added dropwise at −70° C. to 4.80 g of 4-ethynyl-4,4′-dipentylbicyclohexyl in 40 ml of THF, and the mixture is stirred for 15 minutes. A solution of 0.99 ml of iodomethane and 1.914 ml of 1,3-dimethyltetrahydro-2-pyrimidinone in 10 ml of THF is subsequently added dropwise to the reaction solution at this temperature, and the cooling is removed. Conventional work-up gives 4,4′-dipentyl-4-prop-1-ynylbicyclohexyl (C 35 N 35.4 I, Δε−1.54, Δn 0.01).

reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-ethynyl-4,4′-dipentylbicyclohexyl | C(#C)C1(CCC(CC1)C1CCC(CC1)CCCCC)CCCCC | C24H42
reactant | iodomethane | 0.99 ml | IC | CH3I
reactant | 1,3-dimethyltetrahydro-2-pyrimidinone | 1.914 ml | CN1C(N(CCC1)C)=O | C6H12N2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4,4′-dipentyl-4-prop-1-ynylbicyclohexyl | 35 N | C(CCCC)C1(CCC(CC1)C1CCC(CC1)CCCCC)C#CC | C25H44
